US06720338B2
2-(4-bromophenyl)-4-(4-methylphenyl)-1,3-oxazole
A mixture of 2-bromo-4′-methylacetophenone (152 mg, 0.7 mmol) and 4-bromobenzamide (200 mg, 1.0 mmol) was heated to 160° C. for 3 hours, cooled to room temperature, dissolved in ethyl acetate (20 mL), and treated with 5% sodium bicarbonate (20 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×10 mL). The combined extracts were dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 50% ethyl acetate/hexanes to provide the desired product. MS (DCI) m/e 314, 316 (M−H)−, (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ8.70 (s, 1H), 8.00-7.97 (m, 2H), 7.79-7.76 (m, 2H), 7.77-7.74 (m, 2H), 7.29-7.27 (m, 2H), 2.34 (s, 3H).

reactant | 2-bromo-4′-methylacetophenone | 0.7 mmol, 152 mg | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
reactant | 4-bromobenzamide | 1.0 mmol, 200 mg | BrC1=CC=C(C(=O)N)C=C1 | C7H6BrNO
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-bromophenyl)-4-(4-methylphenyl)-1,3-oxazole | BrC1=CC=C(C=C1)C=1OC=C(N1)C1=CC=C(C=C1)C | C16H12BrNO
